US09328118B2
Trifluoroacetic acid (2 mL) was added to a solution of tert-butyl(3R)-3-(2-{[5-(2-cyano-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-3-(trifluoromethyl)pyridin-2-yl]oxy}ethoxy)pyrrolidine-1-carboxylate (240 mg) in CH2Cl2 (4 mL)-acetonitrile (1 mL) at room temperature, and the mixture was stirred at the same temperature for 1 hour. After the reaction mixture was concentrated under reduced pressure, CH2Cl2 (4 mL) and a 4 M solution of hydrogen chloride in EtOAc (0.4 mL) were added to the residue at room temperature. The reaction mixture was concentrated under reduced pressure, and diisopropyl ether was added to the residue. The precipitate was collected by filtration, whereby 7-methyl-4-[6-{2-[(3R)-pyrrolidin-3-yloxy]ethoxy}-5-(trifluoromethyl)pyridin-3-yl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride (208 mg) was obtained as a solid.

reactant | Trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl(3R)-3-(2-{[5-(2-cyano-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-3-(trifluoromethyl)pyridin-2-yl]oxy}ethoxy)pyrrolidine-1-carboxylate | 240 mg | C(#N)C=1N=C(C2=C(N1)N(C=C2)C)C=2C=C(C(=NC2)OCCO[C@H]2CN(CC2)C(=O)OC(C)(C)C)C(F)(F)F | C25H27F3N6O4
reactant | acetonitrile | 1 mL | C(C)#N | C2H3N
reactant | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 7-methyl-4-[6-{2-[(3R)-pyrrolidin-3-yloxy]ethoxy}-5-(trifluoromethyl)pyridin-3-yl]-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile monohydrochloride | 208 mg | Cl.CN1C=CC2=C1N=C(N=C2C=2C=NC(=C(C2)C(F)(F)F)OCCO[C@H]2CNCC2)C#N | InChI=1S/C20H19F3N6O2.ClH/c1-29-5-3-14-17(27-16(9-24)28-18(14)29)12-8-15(20(21,22)23)19(26-10-12)31-7-6-30-13-2-4-25-11-13;/h3,5,8,10,13,25H,2,4,6-7,11H2,1H3;1H/t13-;/m1./s1
